US07825135B2
tert-Butyl 4-{[(2,4-dichlorobenzoyl)amino]methyl}-4-[3-(methoxymethoxy)pyridin-2-yl]piperidine-1-carboxylate
tert-Butyl 4-cyano-4-[3-(methoxymethoxy)pyridin-2-yl]piperidine-1-carboxylate was reduced using Raney nickel and acylated using 2,4-dichlorobenzoyl chloride using the method exemplified in example 8-1 to afford the desired product: tert-butyl 4-{[(2,4-dichlorobenzoyl)amino]-methyl}-4-[3-(inethoxymethoxy)pyridin-2-yl]piperidine-1-carboxylate: 1H NMR δ (ppm)(CDCl3): 8.18 (1 H, dd, J=1.3, 4.5 Hz), 7.50-7.46 (2 H, m), 7.33 (1 H, d, J=1.9 Hz), 7.25 (1 H, dd, J=8.3, 2.0), 7.15 (1 H, dd, J=4.6, 8.3 Hz), 6.70 (1 H, m), 5.25 (2 H, s), 4.01 (2 H, br s), 3.68-3.62 (2 H, m), 3.49 (3 H, s), 3.44-3.38 (2 H, m), 2.75-2.69 (2 H, m), 1.66-1.60 (1 H, m) 1.46 (9 H, s).

reactant | tert-Butyl 4-cyano-4-[3-(methoxymethoxy)pyridin-2-yl]piperidine-1-carboxylate | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC=CC=C1OCOC | C18H25N3O4
reactant | 2,4-dichlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
catalyst | Raney nickel | [Ni] | Ni
product | tert-Butyl 4-{[(2,4-dichlorobenzoyl)amino]methyl}-4-[3-(methoxymethoxy)pyridin-2-yl]piperidine-1-carboxylate | ClC1=C(C(=O)NCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=NC=CC=C2OCOC)C=CC(=C1)Cl | C25H31Cl2N3O5
